US08980887B2
N-ethyl-N-(4-pyridinylmethyl)-2-(4-chlorophenyl)-6-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride (Compound 28)
According to the method of Example 14, 2-(4-chlorophenyl)-6-methylimidazo[1,2-a]pyridine-3-acetic acid and N-(4-pyridinylmethyl)ethylamine were used as raw materials for synthesis, to obtain white solid powder, yield 32.9%. m.p. 229-231° C., ESI-MS m/z: 420[M+H]+, 1H NMR(DMSO-d6, 400 MHz)δ: 1.11(t, 0.6H, J=7.00 Hz), 1.25(t, 2.4H, J=7.00 Hz), 2.47(s, 2.4H), 2.49(s, 0.6H), 3.42(q, 0.4H, J=7.00 Hz), 3.63(q, 1.6H, J=7.00 Hz), 4.25(s, 0.4H), 4.56(s, 1.6H), 4.78(s, 1.6H), 5.01(s, 0.4H), 7.55-7.58(m, 1H), 7.65-7.76(m, 4H), 7.84-7.86(m, 2H), 7.90-7.92(m, 1H), 8.71(s, 1H), 8.80-8.84(m, 2H).

reactant | 2-(4-chlorophenyl)-6-methylimidazo[1,2-a]pyridine-3-acetic acid | ClC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1CC(=O)O | C16H13ClN2O2
reactant | N-(4-pyridinylmethyl)ethylamine | N1=CC=C(C=C1)CNCC | C8H12N2
product | N-ethyl-N-(4-pyridinylmethyl)-2-(4-chlorophenyl)-6-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride | yield 32.9% | Cl.C(C)N(C(CC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)Cl)=O)CC2=CC=NC=C2 | InChI=1S/C24H23ClN4O.ClH/c1-3-28(16-18-10-12-26-13-11-18)23(30)14-21-24(19-5-7-20(25)8-6-19)27-22-9-4-17(2)15-29(21)22;/h4-13,15H,3,14,16H2,1-2H3;1H
